US06265411B1
A solution of oxindole (200 mg, 1.5 mmol) in THF (3 ml) was added dropwise under nitrogen to sodium hydride (60 mg, 1.5 mmol, prewashed with hexane) in THF (3 ml). After stirring for 20 minutes at ambient temperature, a solution of 4-chloro-6(3-morpholinopropoxy)-7-methoxyquinazoline (169 mg, 0.5 mmol) in DMF (3 ml) was added. The mixture was heated at 75° C. for 1 hour, allowed to cool and the volatiles removed by evaporation. The mixture was partitioned between water and ether. The aqueous layer was adjusted to pH8 with 2M hydrochloric acid. The resulting precipitate was collected by filtration, washed with water, and dried under vacuum. The solid was dissolved in methylene chloride/methanol and 3M ethereal hydrogen chloride (0.5 ml) was added. The mixture was diluted with ether, the solid was collected by filtration and dried under vacuum to give 7-methoxy-6-(3-morpholinopropoxy)-4-(oxindol-3-yl)quinazoline hydrochloride (175 mg, 69%).

reactant | oxindole | 1.5 mmol, 200 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 4-chloro-6(3-morpholinopropoxy)-7-methoxyquinazoline | 0.5 mmol, 169 mg | ClC1=NC=NC2=CC(=C(C=C12)OCCCN1CCOCC1)OC | C16H20ClN3O3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 7-methoxy-6-(3-morpholinopropoxy)-4-(oxindol-3-yl)quinazoline hydrochloride | 175 mg, 69% | Cl.COC1=C(C=C2C(=NC=NC2=C1)C1C(NC2=CC=CC=C12)=O)OCCCN1CCOCC1 | InChI=1S/C24H26N4O4.ClH/c1-30-20-14-19-17(13-21(20)32-10-4-7-28-8-11-31-12-9-28)23(26-15-25-19)22-16-5-2-3-6-18(16)27-24(22)29;/h2-3,5-6,13-15,22H,4,7-12H2,1H3,(H,27,29);1H
